US04411901
A mixture of N-(4-bromobutyl)-3,3-dimethylglutarimide (4 g., 0.0145 mole) obtained according to the procedure of Example 9, 3-(1-piperazinyl)-1,2-benzisothiazole (3.18 g., 0.0145 mole), anhydrous potassium carbonate (20.04 g., 0.145 mole) and potassium iodide (0.25 g., 0.0015 mole) in 150 ml. of acetonitrile is stirred and refluxed for a period of 12 hr. The reaction mixture is filtered, concentrated in vacuo and residual material triturated with ether. Crystallization of the solid thus obtained from ether affords a 64% yield of analytically pure 1-[4-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]butyl]-4,4-dimethyl-2,6-piperidinedione, m.p. 146°-147° C.

reactant | N-(4-bromobutyl)-3,3-dimethylglutarimide | 0.0145 mole, 4 g | BrCCCCN1C(CC(CC1=O)(C)C)=O | C11H18BrNO2
reactant | 3-(1-piperazinyl)-1,2-benzisothiazole | 0.0145 mole, 3.18 g | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
reactant | potassium carbonate | 0.145 mole, 20.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.0015 mole, 0.25 g | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[4-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]butyl]-4,4-dimethyl-2,6-piperidinedione | 64% yield | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCN2C(CC(CC2=O)(C)C)=O | C22H30N4O2S
